US09388189B2
(S)—N-(4-(4-((1-(4-Oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-6-yl)methanesulfonamide
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (125 mg, 0.22 mmol) was treated with N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indol-6-yl)methanesulfonamide (187 mg, 0.56 mmol, prepared from N-(4-bromo)-1H-indol-6-yl)methanesulfonamide, which is described at WO 2009147188 A1 20091210, and bis(pinacolato)diboron according to Preparation 119b), sodium carbonate (60 mg, 0.57 mmols) and bis(triphenylphosphine)palladium(II) dichloride (50 mg, 0.06 mmol) according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 80%, hexane-ethyl acetate) to give 152 mg (98% yield) of the title compound. Purity 98%.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.22 mmol, 125 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=CC=C1)COCC[Si](C)(C)C | C26H30BrN7O2Si
reactant | N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indol-6-yl)methanesulfonamide | 0.56 mmol, 187 mg | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC(=C1)NS(=O)(=O)C)C | C15H21BN2O4S
reactant | methanesulfonamide | CS(=O)(=O)N | CH5NO2S
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | sodium carbonate | 0.57 mmols, 60 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.06 mmol, 50 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (S)—N-(4-(4-((1-(4-Oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-6-yl)methanesulfonamide | 152 mg, 98% yield | O=C1N(C(=NN2C1=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C1=C2C=CNC2=CC(=C1)NS(=O)(=O)C)COCC[Si](C)(C)C)C1=CC=CC=C1 | C35H39N9O4SSi
